US07531532B2
3-[4-(4-Aminophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea
3-[4-(4-Nitrophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea was dissolved in tetrahydrofuran (4 ml)-methanol (4 ml), and then 10% palladium carbon (65 mg) was added thereto under a nitrogen atmosphere, followed by replacing with hydrogen inside the system and stirring overnight. After replacing with nitrogen inside the system, the reaction mixture was filtered to remove the catalyst, which was washed with methanol. The filtrate was concentrated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate). Fractions containing the target compound were concentrated under a reduced pressure to provide the titled compound (113.5 mg, quantitatively) as colorless powder.

reactant | 3-[4-(4-Nitrophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea | [N+](=O)([O-])C1=CC=C(OC2=CC(=NC=C2)NC(N(C2CCN(CC2)C)C)=O)C=C1 | C19H23N5O4
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
catalyst | palladium carbon | 65 mg | [C].[Pd]
product | 3-[4-(4-Aminophenoxy)pyridin-2-yl]-1-methyl-1-(1-methylpiperidin-4-yl)urea | NC1=CC=C(OC2=CC(=NC=C2)NC(N(C2CCN(CC2)C)C)=O)C=C1 | C19H25N5O2
